US07517873B2
To a solution of 3.16 g (0.02 mole) of piperidine-3-carboxylic acid ethyl ester, 3.71 g (0.019 mole) of 2,4-dichloro-5-nitro-pyrimidine and 60 mL of ether at 5 degrees, was added a solution of 4 g (0.04 mole) of potassium bicarbonate in 40 mL of water was added over 25 minutes. The mixture was stirred for an additional 1 hour, then extracted with ethyl acetate, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with hexanes-ethyl acetate (100:0-88:12) to give 3.99 g of (rac)-1-(2-chloro-5-nitro-pyrimidin-4-yl)-piperidine-3-carboxylic acid ethyl ester (IV-67).

reactant | piperidine-3-carboxylic acid ethyl ester | 0.02 mole, 3.16 g | C(C)OC(=O)C1CNCCC1 | C8H15NO2
reactant | 2,4-dichloro-5-nitro-pyrimidine | 0.019 mole, 3.71 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | ether | 60 mL | CCOCC | C4H10O
reactant | potassium bicarbonate | 0.04 mole, 4 g | C([O-])(O)=O.[K+]
solvent | water | 40 mL | O | H2O
product | (rac)-1-(2-chloro-5-nitro-pyrimidin-4-yl)-piperidine-3-carboxylic acid ethyl ester | 3.99 g | C(C)OC(=O)C1CN(CCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl | C12H15ClN4O4
